US07943768B2
(3R)-1-Isopropyl-3-({4-[5-(trifluoromethyl)pyridin-2-yl]piperazin-1-yl}carbonyl)piperazine
1-[5-(Trifluoromethyl)pyridin-2-yl]piperazine (170 mg) and (2R)-1-(tert-butoxycarbonyl)-4-isopropylpiperazine-2-carboxylic acid (200 mg) were dissolved in dry THF (10 ml) followed by addition of N′N-di-isopropylethylamine (0.15 ml) and O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-TetramethylUronium Hexafluorophosphate (307 mg) and the reaction was stirred for 4 hours. The solvent was evaporated under reduced pressure, redissolved in DCM (50 ml) and washed with saturated aqueous NaHCO3 (20 ml). The organic layer was separated on a phase separation cartridge and evaporated. Purification by chromatography (3-10% MeOH:DCM) afforded the crude product (231 mg) as a foam which was then dissolved in TFA/DCM (1:1, 10 ml) and stirred for 30 minutes. The solvents were removed under reduced pressure, the residue taken up in 1M aqueous NaOH (30 ml) and extracted with DCM (2×30 ml). The organic layer was separated on a phase separation cartridge and evaporated. Purification by chromatography (5-25% MeOH:DCM) afforded the title compound (100 mg) as a white foam.

reactant | 1-[5-(Trifluoromethyl)pyridin-2-yl]piperazine | 170 mg | FC(C=1C=CC(=NC1)N1CCNCC1)(F)F | C10H12F3N3
reactant | (2R)-1-(tert-butoxycarbonyl)-4-isopropylpiperazine-2-carboxylic acid | 200 mg | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(C)C)C(=O)O | C13H24N2O4
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-TetramethylUronium Hexafluorophosphate | 307 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | TFA DCM | 10 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (3R)-1-Isopropyl-3-({4-[5-(trifluoromethyl)pyridin-2-yl]piperazin-1-yl}carbonyl)piperazine | 100 mg | C(C)(C)N1C[C@@H](NCC1)C(=O)N1CCN(CC1)C1=NC=C(C=C1)C(F)(F)F | C18H26F3N5O
